Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
amlodipine / aspirin / atenolol / Catapres / hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Right femur fracture
 
Major Surgical or Invasive Procedure:
___ - ORIF Right femur

 
History of Present Illness:
___ year old female w/ severe Dementia s/p witnessed
mechanical fall this evening. Pt is a resident at ___ in ___. She was walking this evening when she
tripped and fell. She suffered immediate pain and inability to
bear weight. She was subsequently transferred to ___ by
ambulance for further evaluation. 

Unable to asses further ROS

 
Past Medical History:
Severe Alzheimers
Right Total Hip Replacement
Macular Degeneration
Asthma

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
AVSS
intermittently agitated/confused
AOx1

RIGHT LOWER EXTREMITY:
Dressings and wound c/d/i
Extremity without obvious deformity
No skin tenting, or lesions indicative of open fracture
___ FHL ___ TA PP Fire
SILT LFCN, PFCN, Obturator, Saphenous, Sural, DP, SP, Plantar
2+ DP, ___ pulses; foot warm, well-perfused
Compartments soft (thigh, leg, foot)
Minimal pain to passive stretch of toes
No noted knee effusion

 
Pertinent Results:
FEMUR (AP & LAT) RIGHT Study Date of ___ 11:41 ___:
RIGHT FEMUR, FIVE VIEWS: A right unipolar uncemented hip 
arthroplasty is well 
seated in the acetabulum. There is no evidence of hardware 
loosening or 
complication.  
  
There is an obliquely oriented fracture through the distal femur 
with promient 
angulation and displacement of fragments. Adjacent soft tissue 
swelling is 
seen. Bones are diffusely demineralized and prominent lack of 
musculature. 
Vascular calcifications. Alignment of the knee joint is intact. 
  
RIGHT TIBIA AND FIBULA: There is no fracture or dislocation. The 
bones are 
markedly and diffusely demineralized. Vascular calcifications 
snf muscle 
wasting.  

___ 02:40AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-5.5 LEUK-LG
___ 02:40AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 02:40AM URINE  RBC-0 WBC-152* BACTERIA-NONE YEAST-OCC 
EPI-1
___ 02:40AM URINE  HYALINE-18*
___ 02:40AM URINE  MUCOUS-OCC
___ 01:32PM   GLUCOSE-112* UREA N-21* CREAT-0.6 SODIUM-145 
POTASSIUM-3.2* CHLORIDE-110* TOTAL CO2-27 ANION GAP-11
___ 01:32PM   CALCIUM-8.0* PHOSPHATE-2.8 MAGNESIUM-1.8
___ 01:32PM   WBC-10.0 RBC-3.05* HGB-10.2* HCT-30.3* 
MCV-99* MCH-33.5* MCHC-33.7 RDW-14.1
___ 12:55AM   ___ PTT-26.1 ___
 
Brief Hospital Course:
Ms. ___ was admitted to the Orthopedic service on ___ for 
right femur fracture after being evaluated and treated with 
closed reduction in the emergency room.  She underwent open 
reduction internal fixation of the fracture without complication 
on ___. Please see operative report for full details. She was 
extubated without difficulty and transferred to the recovery 
room in stable condition.  In the early post-operative course 
she was noted to have bradycardia, mild hypotension, and low 
urine output all of which improved with saline bolus and 
awakening. She was transferred to the floor in stable condition

Her HCT was stable on POD1.  She had intermittent confusion and 
delirium and was seen by the Geriatrics team who recommended 
Zyprexa. All other recommendations were followed.  She had been 
DNR/DNI prior to admission, and was continued as such 
post-operatively.

She is known to have low appetite, PO intake, and urine output 
prior to surgery and all of the above are noted post 
operatively.  She has responded periodically to NS boluses and 
instructions are given to her extended care facility to, 
encourage PO intake, monitor hydration and support 
appropriately.  She has again low urine output prior to 
discharge, not voiding after removing her Foley in the setting 
of UTI, bladder scan with <100cc urine, patient clinically 
appears at her baseline state with maintenance IV fluids.  
Geriatrics team has been following her for these issues and 
indicates her baseline status.  She is to be discharged to rehab 
with clear instructions to monitor fluid status and 
hydrate/bladder scan/Foley as necessary with no acute medical 
process evident.  Most recent electrolytes including Cre and BUN 
WNL.

She had adequate pain management and worked with physical 
therapy while in the hospital.  The remainder of her hospital 
course was uneventful and she is being discharged to rehab in 
stable condition.
 
Medications on Admission:
Lovenox 30 mcg qd
Duoneb prn
trazodone 12.5 mg qd

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right femoral shaft fracture

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Wound Care:
- Keep Incision clean and dry.
- Keep pin sites clean and dry.
- You can get the wound wet or take a shower starting from 7 
days after surgery, but no baths or swimming for at least 4 
weeks.
- Dry sterile dresssing may be changed daily.  No dressing is 
needed if wound continues to be non-draining.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
Activity:
- Continue to be touch down weight bearing on your right leg
- You should not lift anything greater than 5 pounds.
- Elevate right leg to reduce swelling and pain.
Other Instructions
- Resume your regular diet.
- Avoid nicotine products to optimize healing.
- Resume your home medications. Take all medications as 
instructed.
- Continue taking the Lovenox to prevent blood clots.
- You have also been given Additional Medications to control 
your pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___ 2. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.
- Narcotic pain medication may cause drowsiness.  Do not drink 
alcohol while taking narcotic medications.  Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications.  Taking more than recommended may cause serious 
breathing problems.
- If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.
Physical Therapy:
TDWB RLE, ROMAT
Treatments Frequency:
staple removal at 2 week follow up
wound care, dressings PRN
elevate RLE
 
Followup Instructions:
___